US08604061B2
c) (S)-4-[(E)-2-(3-Chloro-phenyl)-vinyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
In analogy to example 83c. from (R)-4-(benzothiazole-2-sulfonylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester and 3-chloro-benzaldehyde. Off-white solid. MS (ISP): 340.2 ([{37Cl}M+H]+), 338.2 ([{35Cl}M+H]+).

reactant | (R)-4-(benzothiazole-2-sulfonylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CS(=O)(=O)C=1SC2=C(N1)C=CC=C2)(C)C | C18H24N2O5S2
reactant | 3-chloro-benzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | (S)-4-[(E)-2-(3-Chloro-phenyl)-vinyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C\C1=CC(=CC=C1)Cl)(C)C | C18H24ClNO3
